US06451842B1
A solution of 1-(4-chlorobenzyl)-4-{N-(2,2-diphenylethyl)aminomethyl}piperidine (0.084 mmol) in CH2Cl2 was treated with hippuric acid (1.1 equiv.), HBTU (1.1 equiv.), HOBt (1.1 equiv.). The reaction mixture was stirred at 40° C. for 24 h. General workup and preparative TLC (SiO2) afforded 4-{N-(N-benzoylglycyl)-N-(2,2-diphenylethyl)aminomethyl)}-1-(4-chlorobenzyl)piperidine (Compound No. 524) (8.5 mg, 17%): The purity was determined by RPLC/MS (98%); ESI/MS m/e 580 (M++H, C36H38ClN3O2).

reactant | 1-(4-chlorobenzyl)-4-{N-(2,2-diphenylethyl)aminomethyl}piperidine | 0.084 mmol | ClC1=CC=C(CN2CCC(CC2)CNCC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C27H31ClN2
reactant | hippuric acid | 1.1 equiv. | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
reactant | HBTU | 1.1 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 1.1 equiv. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorobenzyl)piperidine | ClC1=CC=C(CN2CCCCC2)C=C1 | C12H16ClN
